US06355635B1
Lithium hexamethyldisilazide (41.5 mL of a 1.0 M solution in THF) was added to a solution of 2-chloro-5-cyanopyridine (5.24 g) in THF (10 mL). The resultant mixture was stirred at room temperature for 30 min, and then 13 mL saturated aqueous sodium bicarbonate and 5 mL water were added to the reaction mixture. A solution of 3,4-dichlorophenacyl bromide (10.13 g) in chloroform (150 mL) was added in two portions approximately 15 min apart. The resultant mixture was stirred for 72 hours, and the reaction mixture was filtered. The filter cake was triturated with dichloromethane (50 mL) to provide 2-Chloro-5-[4-(3,4-dichloro-phenyl)-1H-imidazol-2-yl]-pyridine (10.46 g). MS m/z 324 (M+), 326 (M++2).

reactant | Lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 2-chloro-5-cyanopyridine | 5.24 g | ClC1=NC=C(C=C1)C#N | C6H3ClN2
reactant | sodium bicarbonate | 13 mL | C([O-])(O)=O.[Na+]
reactant | 3,4-dichlorophenacyl bromide | 10.13 g | ClC=1C=C(C(CBr)=O)C=CC1Cl | C8H5BrCl2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | chloroform | 150 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | 5 mL | O | H2O
product | 2-Chloro-5-[4-(3,4-dichloro-phenyl)-1H-imidazol-2-yl]-pyridine | 10.46 g | ClC1=NC=C(C=C1)C=1NC=C(N1)C1=CC(=C(C=C1)Cl)Cl | C14H8Cl3N3
